US06083673
Synthesis of the compound (4-methyl-3-oxo-1-phenylpyrazolidin-4-yl)methyl 2-sulfobenzoate (Compound II)
To a suspension of 4-methyl-4-hydroxymethyl-1-phenyl-3-pyrazolidinone (Dimezone-S®) (10 g, 48.5 mmol) in neat acetonitrile (200 ml), there is added 2-sulfobenzoic acid cyclic anhydride (8.9 g, 48.5 mmol) all at the same time, at room temperature, while stirring. The reaction mixture is heated to reflux under nitrogen until complete dissolution is observed. The process is continued for 24 hours and the mixture is cooled in a bath of ice and water for 2 hours. A solid precipitant is obtained that is collected by filtration and washed with acetonitrile cooled by means of ice. After drying under vacuum, 17.9 g (95%) of 4-methyl-3-oxo-l-phenyl-pyrazolidin-4-yl)methyl 2-sulfobenzoate (Compound II) is isolated in the form of a whitish solid.

reactant | 4-methyl-4-hydroxymethyl-1-phenyl-3-pyrazolidinone | 48.5 mmol, 10 g | CC1(C(NN(C1)C1=CC=CC=C1)=O)CO | C11H14N2O2
reactant | 2-sulfobenzoic acid cyclic anhydride | 48.5 mmol, 8.9 g | C1=CC=C2C(=C1)C(=O)OS2(=O)=O | C7H4O4S
reactant | water | O | H2O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (4-methyl-3-oxo-1-phenylpyrazolidin-4-yl)methyl 2-sulfobenzoate | S(=O)(=O)(O)C1=C(C(=O)OCC2(C(NN(C2)C2=CC=CC=C2)=O)C)C=CC=C1 | C18H18N2O6S
